US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-nitro-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide
4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid (3.62 g, 10 mmol) and oxalyl chloride (3.8 mL, 30 mmol) were stirred in DCM dry (120 mL) and a few drops of dry DMF at room temperature for 2 hours Volatiles were evaporated and the residue dissolved in dry pyridine (50 mL) at 0° C. A solution of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (2 gr, 7.72 mmol) in dry pyridine (20 mL) was added to the cooled reaction mixture under nitrogen atmosphere. The resulting mixture was allowed to react overnight at room temperature, then the solvent removed under reduced pressure. The residue was taken-up with EtOAc and washed with aqueous NaHCO3 sat. sol., water and brine. Organic phase was dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using AcOEt/Hexane 7:3 as the eluant, affording 3.9 g of the title compound.

reactant | 4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid | 10 mmol, 3.62 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C14H13F3N2O6
reactant | oxalyl chloride | 30 mmol, 3.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 7.72 mmol, 2 gr | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-nitro-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzamide | 3.9 g | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)[N+](=O)[O-])N(C(C(F)(F)F)=O)C2CCOCC2)=O)C=C(C1)F | C28H22F5N5O5
